US09029536B2
A) 2-(4-Bromophenoxy)imidazo[1,2-a]pyridine
Ethyl 2-chloroimidazo[1,2-a]pyridine-3-carboxylate (2.00 g) was added to a solution of p-bromophenol (1.617 g) and NaH (0.427 g) in DMF (10 mL) at 100° C. The mixture was stirred at 100° C. under a dry atmosphere (CaCl2 tube) overnight. The reaction mixture was diluted with MeOH, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (530 mg).

reactant | Ethyl 2-chloroimidazo[1,2-a]pyridine-3-carboxylate | 2.00 g | ClC=1N=C2N(C=CC=C2)C1C(=O)OCC | C10H9ClN2O2
reactant | p-bromophenol | 1.617 g | C1=CC(=CC=C1O)Br | C6H5BrO
reactant | NaH | 0.427 g | [H-].[Na+]
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 2-(4-Bromophenoxy)imidazo[1,2-a]pyridine | 530 mg | BrC1=CC=C(OC=2N=C3N(C=CC=C3)C2)C=C1 | C13H9BrN2O
